US06617339B1
3-(4-((3R)-3-Hydroxy-1-pyrrolidinyl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one
3-(4-((3R)-3-t-Butyldimethylsilyloxy-1-pyrrolidinyl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one (1.8 g, 3.77 mmol) was stirred in a mixture of acetic acid, water, and tetrahydroftiran (3:1:1, 40 ml) at 90° for four hours. Solvent was evaporated, and the residue purified by chromatography on a 10 g silica Mega Bond Elut® column, eluting with a gradient increasing in polarity from 0 to 10% MeOH in dichloromethane. Relevant fractions were combined and evaporated to givc the desired product (420 mg) as a foam. MS (ESP): 364 (MH+) for C17H18FN3O5.

reactant | 3-(4-((3R)-3-t-Butyldimethylsilyloxy-1-pyrrolidinyl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one | 3.77 mmol, 1.8 g | [Si](C)(C)(C(C)(C)C)O[C@H]1CN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)COC1=NOC=C1)=O)F | C23H32FN3O5Si
reactant | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-(4-((3R)-3-Hydroxy-1-pyrrolidinyl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one | O[C@H]1CN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)COC1=NOC=C1)=O)F | C17H18FN3O5
